US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4,5,6,7-tetrahydroindol-1-yl)benzamide
Prepared analogously to Example 1g from 3-chloro-4-(4,5,6,7-tetrahydroindol-1-yl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 25%; Rf value: 0.90 (silica gel: dichloromethane/ethanol/ammonia=4:1:0.1); C24H22C12N4O (453.371); mass spectrum: (M+H)+=453/455/457 (chlorine isotope).

reactant | 3-chloro-4-(4,5,6,7-tetrahydroindol-1-yl)benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1C=CC=2CCCCC12 | C15H14ClNO2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | dichloromethane ethanol ammonia | ClCCl.C(C)O.N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4,5,6,7-tetrahydroindol-1-yl)benzamide | Yield: 25% | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1C=CC=3CCCCC13 | C24H22Cl2N4O
